US08609653B2
methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate
A solution of crude methyl 2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate in t-BuOAc (22 mL) was treated with perchloric acid (0.131 mL, 2.176 mmol) and stirred at ambient temperature for 30-60 minutes until LCMS indicates reaction was nearly complete (70-90% conversion to desired product). The mixture was then cooled in an ice bath, quenched with saturated sodium bicarbonate and then extracted with EtOAc. The extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified on silica gel (0-50% hex/EtOAc) to afford the desired product (75 mg, 0.184 mmol, 33.8%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 11.10 (d, 1 H), 7.29-7.16 (m, 3 H), 6.92 (d, J=8.4 Hz, 1 H), 6.24 (d, J=9.4 Hz, 1 H), 5.46 (s, 1 H), 4.36-4.23 (m, 2 H), 3.81-3.73 (m, 3 H), 2.96-2.79 (m, 2 H), 2.78-2.72 (m, 3 H), 2.17-2.00 (m, 2 H), 0.95 (s, 9 H); LC/MS (m/z) ES+=409.37 (M+1).

reactant | methyl 2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1C(C(=O)OC)O)C)NC=C2 | C20H20N2O4
reactant | perchloric acid | 2.176 mmol, 0.131 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | t-BuOAc | 22 mL | C(C)(C)(C)OC(=O)C | C6H12O2
product | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
